US04690925
To a solution of methyl 2-(N-cyclohexyl-4-(3-formyl-4-nitrophenyl)oxybutyramidyl)acetate (3.5 g) in dry pyridine (20 ml) under a blanket of nitrogen was added solid tetra-N-butylammonium permanganate portionwise over 1 hour. The reaction was stirred at room temperature for 1 hour and was then poured into ethyl acetate/6M hydrogen chloride (100 ml each). Solid sodium bisulfite was added to decolorize the solution and the layers were separated. The aqueous layer was washed with ethyl acetate (2×50 ml). The combined organic layers were washed with 1M HCl (3×50 ml) and brine (2×50 ml), dried, filtered and evaporated to give a syrup which foamed at high vacuum from dichloromethane to yield methyl 2-(N-cyclohexyl-4-(3-carboxy-4-nitrophenyl)oxybutyramidyl)acetate.

reactant | methyl 2-(N-cyclohexyl-4-(3-formyl-4-nitrophenyl)oxybutyramidyl)acetate | 3.5 g | C1(CCCCC1)N(C(CCCOC1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O)CC(=O)OC | C20H26N2O7
reactant | ethyl acetate | 6M, 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(N-cyclohexyl-4-(3-carboxy-4-nitrophenyl)oxybutyramidyl)acetate | C1(CCCCC1)N(C(CCCOC1=CC(=C(C=C1)[N+](=O)[O-])C(=O)O)=O)CC(=O)OC | C20H26N2O8
